US04325953
2-(4-Phenyl-1-benzyl-4-piperidyloxy)pyrazine
A solution of 4-phenyl-1-phenylmethyl-4-piperidinol (5.35 g, 20 mM) in DMSO (50 ml) was treated with sodium hydride (960 mg of a 50% dispersion, 20 mM) followed by chloropyrazine (2.29 g, 20 mM); the reaction was stirred for 24 hours and then poured on to water (200 ml). The aqueous layer was extracted with ether (3×100 ml), the combined organic phases washed with water (100 ml) and dried. Removal of the solvents under reduced pressure followed by recrystallisation gave the title compound (1.3 g), m.p. 107°-8° C.

reactant | 4-phenyl-1-phenylmethyl-4-piperidinol | 20 mM, 5.35 g | C1(=CC=CC=C1)C1(CCN(CC1)CC1=CC=CC=C1)O | C18H21NO
reactant | sodium hydride | [H-].[Na+]
reactant | chloropyrazine | 20 mM, 2.29 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | water | 200 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 2-(4-Phenyl-1-benzyl-4-piperidyloxy)pyrazine | 1.3 g | C1(=CC=CC=C1)C1(CCN(CC1)CC1=CC=CC=C1)OC1=NC=CN=C1 | C22H23N3O
